US07307084B2
AT. N-(7-Benzyloxy-2,3-dimethyl-3H-benzimidazol-5-yl)-acetamide
A solution of 10 g (30.2 mmol) 4-benzyloxy-6-bromo-1,2-dimethyl-1H-benzimidazole, 2.1 g (36.2 mmol) acetamide, 524 mg (0.9 mmol) xantphos, 13.7 g (42.3 mmol) cesium carbonate and 276 mg (0.3 mmol) Pd2(dba)3 in 60 ml dioxane was stirred at 100° C. for 20 h. The reaction mixture was cooled to room temperature and poured into dichloromethane. The precipitate was filtered off and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel (toluene/dioxane=2:1) to afford 5.8 g (62%) of the title compound as a white foam.

reactant | 4-benzyloxy-6-bromo-1,2-dimethyl-1H-benzimidazole | 30.2 mmol, 10 g | C(C1=CC=CC=C1)OC1=CC(=CC=2N(C(=NC21)C)C)Br | C16H15BrN2O
reactant | acetamide | 36.2 mmol, 2.1 g | C(C)(=O)N | C2H5NO
reactant | cesium carbonate | 42.3 mmol, 13.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.3 mmol, 276 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.9 mmol, 524 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | N-(7-Benzyloxy-2,3-dimethyl-3H-benzimidazol-5-yl)-acetamide | 5.8 g, 62% | C(C1=CC=CC=C1)OC1=CC(=CC2=C1N=C(N2C)C)NC(C)=O | C18H19N3O2
